US09216173B2
A mixture of 3-{[(benzyloxy)carbonyl]amino}-N-(tert-butoxycarbonyl)alanine (100 g, 0.29 mol), potassium carbonate (82 g, 0.59 mol) and methyl iodide (42 g, 0.29 mol) in DMSO (1200 mL) was stirred at room temperature. After 12 hours, the reaction mixture was extracted with ethyl acetate, and the organics were separated and concentrated under reduced pressure. The residue was purified by chromatography on silica gel to give methyl 3-{[(benzyloxy)carbonyl]amino}-N-(tert-butoxycarbonyl)alaninate. MS ESI calc'd. for C17H25N2O6 [M+H]+ 353. found 353. 1H NMR (400 MHz, CDCl3) δ 7.36-7.33 (m, 5H), 5.09 (s, 2H), 4.34-4.30 (m, 1H), 3.74 (s, 2H), 3.59 (t, J=6.0 Hz, 2H), 2.62 (s, 3H), 1.44 (s, 9H).

reactant | 3-{[(benzyloxy)carbonyl]amino}-N-(tert-butoxycarbonyl)alanine | 0.29 mol, 100 g | C(C1=CC=CC=C1)OC(=O)NC[C@H](NC(=O)OC(C)(C)C)C(=O)O | C16H22N2O6
reactant | potassium carbonate | 0.59 mol, 82 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 0.29 mol, 42 g | CI | CH3I
solvent | DMSO | 1200 mL | CS(=O)C | C2H6OS
product | methyl 3-{[(benzyloxy)carbonyl]amino}-N-(tert-butoxycarbonyl)alaninate | C(C1=CC=CC=C1)OC(=O)NC[C@H](NC(=O)OC(C)(C)C)C(=O)OC | C17H24N2O6
